US04438271
Preparation of 2-[1-(2,6-Dichlorophenyl)ethylsulfonyl]pyridine-1-oxide
2-(2,6-Dichlorophenyl)methylsulfonyl pyridine 1-oxide* (1.75 g, 5.5 mmol) was added in one portion to a stirring solution of 20 mls of dimethylformamide containing 0.24 g of sodium hydroxide and 0.77 g of dimethylsulfate (6.1 mmol). The mixture was allowed to stir at room temperature for 1 h, then poured into 300 ml of rapidly stirring water whereupon a precipitate formed. The precipitate was filtered off, washed with water, and air dried to afford 1.38 g product, m.p. 179°-183° (74% yield).

reactant | 2-(2,6-Dichlorophenyl)methylsulfonyl pyridine 1-oxide | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C12H9Cl2NO3S
reactant | dimethylformamide | 20 mls, 0.24 g | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylsulfate | 6.1 mmol, 0.77 g | COS(=O)(=O)OC | C2H6O4S
solvent | water | O | H2O
product | 2-[1-(2,6-Dichlorophenyl)ethylsulfonyl]pyridine-1-oxide | 1.38 g, 74% yield | ClC1=C(C(=CC=C1)Cl)C(C)S(=O)(=O)C1=[N+](C=CC=C1)[O-] | C13H11Cl2NO3S
